US03939159
10 g of sodium hydrosulfite are added portionwise to a stirred solution of 10.0 g (0.045 mole) of 1-(4-chloro-2-nitrophenyl)pyrrole, 200 ml. of tetrahydrofuran and 100 ml. of water, and the solution is heated on a steam bath for 5 minutes. An additional 10 g of sodium hydrosulfite are added and the solution is again heated on a steam bath for 5 minutes. Then 23 g more of sodium hydrosulfite and a solution of 200 ml. of ethanol in 250 ml. of water are added and heated for 5 minutes on a steam bath. The organic solvents are distilled, leaving a suspension of a tan solid. The solid is filtered, washed with water, dried, and recrystallized from hexane to give yellow needles, m.p. 89°-90°C. of 1-(2-amino-4-chlorophenyl)pyrrole.

reactant | sodium hydrosulfite | 10 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1-(4-chloro-2-nitrophenyl)pyrrole | 0.045 mole, 10.0 g | ClC1=CC(=C(C=C1)N1C=CC=C1)[N+](=O)[O-] | C10H7ClN2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydrosulfite | 10 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-amino-4-chlorophenyl)pyrrole | NC1=C(C=CC(=C1)Cl)N1C=CC=C1 | C10H9ClN2
